US04534979
Methyl7-(4-Methoxy-2,3,6-trimethylphenyl)-5-Methyl-Hepta-2,4,6-Trienoate
In a manner similar to Example 5, reaction of 4-(4-methoxy-2,3,6-trimethylphenyl)-3-buten-2-one with methyl 4-bromocrotonate afforded the desired compound. Crystallization from ether-petroleum ether gave yellow crystals, m.p. 104°-109° C. MS(EI): 300(m+), 285(m+ --CH3), 241(m+ --CO2CH3).

reactant | 4-(4-methoxy-2,3,6-trimethylphenyl)-3-buten-2-one | COC1=C(C(=C(C(=C1)C)C=CC(C)=O)C)C | C14H18O2
reactant | methyl 4-bromocrotonate | BrC/C=C/C(=O)OC | C5H7BrO2
product | Methyl7-(4-Methoxy-2,3,6-trimethylphenyl)-5-Methyl-Hepta-2,4,6-Trienoate | COC(C=CC=C(C=CC1=C(C(=C(C=C1C)OC)C)C)C)=O | C19H24O3
